US05244910
(4S) 4-(2-furyl)-3-oxaoctanoic acid
NaH (16.3 g, 680.9 mmol) and freshly distilled THF (170 mL) Were stirred at room temperature as (S)-1-(2-furyl)-1-pentanol ([α]25D -17.2°, 30.0 g, 46.0 mmol) in THF (170 mL) was added dropwise. After the addition was complete, the mixture was stirred for 15 m before cautiously heating to reflux for 1 h. The mixture was cooled to 0° C. before adding dropwise a solution of bromoacetic acid (27.3 g, 196.5 mmol) in THF (40 mL). The mixture was refluxed 2 days before cooling and carefully pouring into 600 mL ice water. The aqueous was washed with ether and acidified with HCl to pH 4, and extracted with ether. The combined organic extracts were washed with brine, dried over MgSO4, and evaporated to give a quantitative yield of crude product which was used in the next step without further purification.

reactant | NaH | 680.9 mmol, 16.3 g | [H-].[Na+]
reactant | (S)-1-(2-furyl)-1-pentanol | 46.0 mmol, 30.0 g | O1C(=CC=C1)[C@H](CCCC)O | C9H14O2
reactant | bromoacetic acid | 196.5 mmol, 27.3 g | BrCC(=O)O | C2H3BrO2
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 170 mL | C1CCOC1 | C4H8O
product | 4-(2-furyl)-3-oxaoctanoic acid | quantitative yield | O1C(=CC=C1)C(OCC(=O)O)CCCC | C11H16O4
